US04996218
4-Amino-3,5-dichloro-α-[[[6-[[6-(pyrazinyl)hexyl]oxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol (1.2 g), DEA (0.72 ml) and [6-[(6-bromohexyl)oxy]hexyl]pyrazine (1.16 g) in DMF (10 ml) was heated at 100°-110° for 3 h. The resulting dark solution was evaporated in vacuo and the residue purified by FCC eluting with System B (96:2:2→93:5:2) to give the title compound as pale yellow crystals (0.92 g), m.p. 60°-63°.

reactant | 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol | 1.2 g | NC1=C(C=C(C=C1Cl)C(O)CN)Cl | C8H10Cl2N2O
reactant | [6-[(6-bromohexyl)oxy]hexyl]pyrazine | 1.16 g | BrCCCCCCOCCCCCCC1=NC=CN=C1 | C16H27BrN2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Amino-3,5-dichloro-α-[[[6-[[6-(pyrazinyl)hexyl]oxy]hexyl]amino]methyl]benzenemethanol | 0.92 g | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCCCCC1=NC=CN=C1)Cl | C24H36Cl2N4O2
